US04238488
A mixture of 1-(3,4-dichlorobenzyl)-1,2,5,6-tetrahydropyridine-3-carboxylic acid hydrochloride (2.0 g.) and thionyl chloride (15 ml.) was heated under reflux for 30 minutes. Excess thionyl chloride was removed by evaporation and the residue was mixed with toluene and then evaporated. n-Butyl alcohol (30 ml.) was added to the cooled residual solid and the mixture was stirred at 25° C. for 1 hour, during which time all the solid dissolved. The solution obtained was heated under reflux for 10 minutes and then excess n-butyl alcohol was removed by evaporation. The residue was recrystallised from acetone/ether to give n-butyl 1-(3,4-dichlorobenzyl)-1,2,5,6-tetrahydropyridine-3-carboxylate hydrochloride (1.2 g.), m.p. 160°-162° C.

reactant | 1-(3,4-dichlorobenzyl)-1,2,5,6-tetrahydropyridine-3-carboxylic acid hydrochloride | 2.0 g | Cl.ClC=1C=C(CN2CC(=CCC2)C(=O)O)C=CC1Cl
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
product | n-butyl 1-(3,4-dichlorobenzyl)-1,2,5,6-tetrahydropyridine-3-carboxylate hydrochloride | 1.2 g | Cl.ClC=1C=C(CN2CC(=CCC2)C(=O)OCCCC)C=CC1Cl | InChI=1S/C17H21Cl2NO2.ClH/c1-2-3-9-22-17(21)14-5-4-8-20(12-14)11-13-6-7-15(18)16(19)10-13;/h5-7,10H,2-4,8-9,11-12H2,1H3;1H
